US05292937
3,5-Dichloroaniline, mono-ethyl formamidomalonate and 1,3-dicyclohexylcarbodiimide were reacted in a manner similer to that described in Example XCI Part B to give ethyl 3-[(3,5-dichlorophenyl)amino]-2-formamido-3-oxopropanoate having a melting point of 147.0° C.-148.0° C. Elemental analysis of the product indicated the following:

reactant | 3,5-Dichloroaniline | ClC=1C=C(N)C=C(C1)Cl | C6H5Cl2N
reactant | mono-ethyl formamidomalonate | C(=O)NC(C(=O)OCC)C(=O)[O-]
reactant | 1,3-dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
product | ethyl 3-[(3,5-dichlorophenyl)amino]-2-formamido-3-oxopropanoate | ClC=1C=C(C=C(C1)Cl)NC(C(C(=O)OCC)NC=O)=O | C12H12Cl2N2O4
